US08491869B2
A solution of 2-aminobenzimidazole (197 mg, 1.5 mmol) and 2-Bromo-4′-(diethylamino)acetophenone (402 mg, 1.5 mmol) in MeOH (7 mL) was stirred at r.t. for 18 hours. The volatiles were removed in vacuo and NaHCO3 (sat. aq., 30 mL) was added. The aqueous mixture was extracted with EtOAc (3×30 mL). The combined EtOAc extracts were dried with MgSO4 and concentrated in vacuo. The residue was purified on silica gel eluting with a gradient up to 5:95 (MeOH:DCM) to isolate 2-(2-amino-1H-benzo[d]imidazol-1-yl)-1-(4-(diethylamino)phenyl)ethanone (176 mg, 36%) as a beige solid.

reactant | 2-aminobenzimidazole | 1.5 mmol, 197 mg | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | 2-Bromo-4′-(diethylamino)acetophenone | 1.5 mmol, 402 mg | BrCC(=O)C1=CC=C(C=C1)N(CC)CC | C12H16BrNO
solvent | MeOH | 7 mL | CO | CH4O
product | 2-(2-amino-1H-benzo[d]imidazol-1-yl)-1-(4-(diethylamino)phenyl)ethanone | 176 mg, 36% | NC1=NC2=C(N1CC(=O)C1=CC=C(C=C1)N(CC)CC)C=CC=C2 | C19H22N4O
